US06498172B1
7-(4-Butyl-benzylamino)-heptanoic acid methyl ester.
A solution of 7-amino-heptanoic acid methyl ester hydrochloride, prepared of Preparation 1, (1.12 g, 5.9 mmol), 4-butyl-benzaldehyde (0.915 g, 5.65 mmol) and triethylamine (0.83 mL, 5.98 mmol) in 20 mL MeOH was stirred at room temperature for 3 hours. After cooling to 0° C., NaBH4 (0.342 g, 9.04 mmol) was added and the reaction was stirred for 15 minutes at room temperature. The mixture was quenched with 1:1 NaHCO3:H2O and the MeOH was removed in vacuo. The resulting residue was diluted with CH2Cl2 and the organic solution was washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound of Step A (1.4 g). 1H NMR (400 MHz, CDCl3) δ 7.08-7.38 (m, 4H), 3.62 (s, 2H), 3.29 (s, 3H), 2.52-2.66 (m, 4H), 2.25 (t, 2H), 1.53-1.63 (m, 6H), 1.25-1.40 (m, 6H), 0.85 (t, 3H); MS 306 (M+1).

reactant | 7-amino-heptanoic acid methyl ester hydrochloride | Cl.COC(CCCCCCN)=O
reactant | 4-butyl-benzaldehyde | 5.9 mmol, 1.12 g | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | triethylamine | 5.98 mmol, 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 9.04 mmol, 0.342 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 7-(4-Butyl-benzylamino)-heptanoic acid methyl ester | 1.4 g | COC(CCCCCCNCC1=CC=C(C=C1)CCCC)=O | C19H31NO2
